US06191140B1
2-benzyl-5-(3-bromo-4-fluorophenyl)-2,3,5,7,8,9-hexahydro-1H-cyclopenta[b][1,7]naphthyridine-4,6-dione
A solution of 3-amino-2-cyclopenten-1-one (Kikani, B. B., Synthesis, (1991), 2, 176) (0.97 g, 10 mmol), 3-bromo-4-fluorobenzaldehyde (2.0 g, 10 mmol) and N-benzylpiperidine-3,5-dione (Ziegler, J. Amer. Chem. Soc. (1973), 95, 7458-7464) (2.2 g, 10 mmol) in ethyl alcohol (10 mL) was heated to reflux for 72 hours and then allowed to cool to ambient temperature. The solvent was evaporated and the residue was purified by flash chromatography over silica gel (5% ethanol/methylene chloride) to provide the title compound (3.0 g).

reactant | 3-amino-2-cyclopenten-1-one | 10 mmol, 0.97 g | NC1=CC(CC1)=O | C5H7NO
reactant | 3-bromo-4-fluorobenzaldehyde | 10 mmol, 2.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | N-benzylpiperidine-3,5-dione | 10 mmol, 2.2 g | C(C1=CC=CC=C1)N1CC(CC(C1)=O)=O | C12H13NO2
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | 2-benzyl-5-(3-bromo-4-fluorophenyl)-2,3,5,7,8,9-hexahydro-1H-cyclopenta[b][1,7]naphthyridine-4,6-dione | 3.0 g | C(C1=CC=CC=C1)N1CC(C=2C(C3=C(NC2C1)CCC3=O)C3=CC(=C(C=C3)F)Br)=O | C24H20BrFN2O2
